### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): `card_edgeFinset_map`

### PR DESCRIPTION
**Pull request by mitchell-horner**
---

Needed for a proof of the Erdős-Stone-Simonovits theorem in future PR.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 1]
```diff
@@ -529,4 +542,17 @@ theorem degree_induce_support (v : G.support) :
 
 end Support
 
+section Map
+
+variable [Fintype V] {W : Type*} [Fintype W] [DecidableEq W]
+
+theorem card_edgeFinset_map (G : SimpleGraph V) [DecidableRel G.Adj] (f : V ↪ W) :
+    #(G.map f).edgeFinset = #G.edgeFinset := by
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean:572]: Can you prove something stronger like the following?
```suggestion
    (G.map f).edgeFinset = G.edgeFinset.map sorry := by
```

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Finite.lean:572]: `edgeSet_map_eq_image` > `edgeFinset_map_eq_map` > `card_edgeFinset_map` 👍

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 2]
```diff
@@ -131,6 +131,19 @@ theorem card_edgeFinset_le_card_choose_two : #G.edgeFinset ≤ (Fintype.card V).
 
 end EdgeFinset
 
+namespace Iso
+
+variable {G} {W : Type*} {G' : SimpleGraph W} (f : G ≃g G')
+
+include f in
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean]: Since this is just for one statement, let's just put `f` in the hyps of the theorem directly

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 3]
```diff
@@ -67,6 +67,20 @@ theorem map_adj (f : V ↪ W) (G : SimpleGraph V) (u v : W) :
     (G.map f).Adj u v ↔ ∃ u' v' : V, G.Adj u' v' ∧ f u' = u ∧ f v' = v :=
   Iff.rfl
 
+theorem edgeSet_map_eq_image (f : V ↪ W) (G : SimpleGraph V) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
theorem edgeSet_map (f : V ↪ W) (G : SimpleGraph V) :
```

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 4]
```diff
@@ -80,6 +94,10 @@ theorem map_monotone (f : V ↪ W) : Monotone (SimpleGraph.map f) := by
 @[simp] lemma map_map (f : V ↪ W) (g : W ↪ X) : (G.map f).map g = G.map (f.trans g) :=
   SimpleGraph.ext <| Relation.map_map _ _ _ _ _
 
+theorem support_map_eq_image (f : V ↪ W) (G : SimpleGraph V) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean]:
```suggestion
theorem support_map (f : V ↪ W) (G : SimpleGraph V) :
```

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean [hunk 5]
```diff
@@ -529,4 +542,20 @@ theorem degree_induce_support (v : G.support) :
 
 end Support
 
+section Map
+
+variable [Fintype V] {W : Type*} [Fintype W] [DecidableEq W]
+
+theorem edgeFinset_map_eq_map (f : V ↪ W) (G : SimpleGraph V) [DecidableRel G.Adj] :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean]:
```suggestion
theorem edgeFinset_map (f : V ↪ W) (G : SimpleGraph V) [DecidableRel G.Adj] :
```

**Review by b-mehta — COMMENTED** [review]
bors d+

Thanks!

File: Mathlib/Combinatorics/SimpleGraph/Finite.lean (hunk 5 above)
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/Finite.lean]: Should this be `simp`? If so, the lemma below can probably be dropped altogether.

Comment (mitchell-horner) [reply Mathlib/Combinatorics/SimpleGraph/Finite.lean]: I like having `card_edgeFinset_map` explicitly to go backwards and add disconnected vertices to a simple graph in a `rw` neatly. It solves this problem for me:

Suppose you have a `G : SimpleGraph W`, `G` is `H`-free for some `H`, and you want to prove `#G.edgeFinset ≤ extremalNumber (card V) H` where `card W ≤ card V`. Further suppose you know that adding disconnected vertices to `G` doesn't create a copy of `H`. 
I can't just `apply card_edgeFinset_le_extremalNumber` to this as `G` might not have `card V` vertices. I can `rw [← card_edgeFinset_map f]` for some `f : W ↪ V` and then `apply card_edgeFinset_le_extremalNumber` on `G.map f` (since I know `G.map f` is also `H`-free).

Let me know what you think. (I'll tag `edgeFinset_map` with `simp` in the meantime.)
